US07259173B2
To a suspension of magnesium metal (4.15 g, 170.5 mmol) in anhydrous THF (40 ml) is added 1,2-dibromoethane (1.53 g, 8.12 mmol) and the mixture warmed gently. To the reaction mixture is added a solution of 1-chloromethyl-4-fluoro-benzene (23.5 g, 162.4 mmol) in THF (20 ml) dropwise over 1.5 hours. The reaction mixture is cooled to RT and stirred for 0.5 hours followed by cooling to −10° C. and addition of a solution of 1-benzyl-piperidin-4-one (9.19 g, 48.6 mmol) in THF (20 ml) dropwise over 0.5 hours. During the addition the reaction temperature is maintained below 0° C. After addition is complete the reaction is allowed to reach RT and stirred for 4 days. The resultant suspension is cooled in ice, treated with saturated ammonium chloride, stirred for 0.3 hours, treated with water and the mixture extracted with ethyl acetate. The ethyl acetate is dried with magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (methanol:dichloromethane: anmuoniumhydroxide, 1:100:0.5 elution) to afford 1-benzyl-4-(4-fluoro-benzyl)-piperidin-4-ol [MH]+ 300.8

reactant | magnesium | 170.5 mmol, 4.15 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 8.12 mmol, 1.53 g | BrCCBr | C2H4Br2
reactant | 1-chloromethyl-4-fluoro-benzene | 162.4 mmol, 23.5 g | ClCC1=CC=C(C=C1)F | C7H6ClF
reactant | 1-benzyl-piperidin-4-one | 48.6 mmol, 9.19 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-4-(4-fluoro-benzyl)-piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=CC=C(C=C1)F | C19H22FNO
